* FK30046
* Knowles, 2014
* For beta testing only. Full release models coming soon.
* This model represents the best fit to performance as
* measured on a sampling of devices.  It does not necessarily
* exactly match design intent or nominal performance. 
.subckt FK30046 p1 n1 p2 n2
Cback N0010 N0005 5.8e-14
Ceff N0005 N0030 3.46e-14
Cfront N0010 n2 2.06e-14
Cgap N0025 n2 5.38e-14
G1_1 N0020 n1 N0015 n2 {-1*1.51e-6}
G1_2 N0015 n2 N0020 n1 1.51e-6
Leff N0025 N0030 122000.
Lport N0035 p2 14600.
Rdc p1 N0020 198.
Rpierce N0005 n2 2.82e10
Rport N0035 N0010 2.31e8
GKarm N0025 N0015 laplace {V(N0025,N0015)}={3.18e-11*sqrt(s)}
Ropen01 N0005 0 1.e15
Ropen02 N0010 0 1.e15
Ropen03 N0030 0 1.e15
Ropen04 N0020 0 1.e15
Ropen05 n1 0 1.e15
Ropen06 N0015 0 1.e15
.ends
*